US07863444B2
∝-[4-(4-amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]benzyl Alcohol
Phenylmagnesium chloride (1.5 ml of a 2M solution in THF) was added dropwise with stirring under nitrogen to a solution of 4-(4-amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzaldehyde (0.25 g) in toluene/THF (1:1, 16 ml) at minus 78° C. under nitrogen. After the addition the mixture was allowed to warm 0° C. and maintained at this temperature for 40 minutes. The reaction was quenched by the dropwise addition of saturated ammonial chloride solution (4 ml) at 0° C. The mixture was allowed to warm to ambient temperature and stood overnight at this temperature. The solvent was removed under reduced pressure and the solid residue obtained was washed with water and filtered. The residue was triturated with hot ethyl acetate, collected by filtration and identified by LCMS as ∝-[4-(4-amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]benzyl alcohol, m.p. 279-281° C.

reactant | Phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | 4-(4-amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzaldehyde | 0.25 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=O)C=C2)C(C)C | C16H16N4O
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene THF | 16 ml | C1(=CC=CC=C1)C.C1CCOC1
product | [4-(4-amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]benzyl Alcohol | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)C(C2=CC=CC=C2)O)C(C)C | C22H22N4O
